Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cephalosporins
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting, upper abdominal pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of anxiety, obesity, and appendicitis c/b
peritonitis and ex-lap who presents with nausea/vomiting and
abdominal pain. Her symptoms started around 5PM of ___. She had 
2
episodes of non-bloody, non-bilious emesis at home with 2 
further
episodes in the ED. Her abdominal pain is mostly epigastric and
___. The pain is crampy and intermittent without 
clear
worsening or alleviating factors. Her last bowel movement was 
the
day of presentation and she has been passing flatus. She denies
recent travel, sick contacts, diarrhea, constipation,
black/bloody stools, changes in urination.

- In the ED, initial vitals were:
T 97.7F HR 115 BP 145/93 RR 20 O2 97% RA 

- Exam was notable for:
"Abd: BS+, soft, TTP at LUQ & epigastric areas w/ voluntary
guarding, no rigidity or rebound"

- Labs were notable for:
WBC 21.5 Hgb 14.7 Plt 348 
BMP unremarkable 
LFTs and lipase unremarkable 
Lactate 1.4
CRP 3.8 

- Studies were notable for:
Liver US 
1. No evidence of cholelithiasis or acute cholecystitis.
2. Echogenic liver consistent with steatosis. Other forms of
liver disease including steatohepatitis, hepatic fibrosis, or
cirrhosis cannot be excluded on the basis of this examination.
Outpatient GI/hepatology follow-up with MR ___ ultrasound
___ is recommended as clinically indicated.

CT abdomen and pelvis with contrast 
1. Multiple mildly dilated loops of small bowel in the Left 
upper
quadrant measuring up to 3.2 cm without evidence of transition
point or upstream dilation to suggest obstruction. Just distal 
to
the dilated loops is a short segment of jejunum demonstrating
mild wall thickening and adjacent soft tissue stranding with
multiple reactive mesenteric lymph nodes, suggestive of an
underlying inflammatory or infectious process. Questionable
intramural fat is seen within this segment of bowel, which can 
be
seen in the setting of inflammatory bowel disease.
2. No evidence of diverticulitis.

- The patient was given:
IV Ondansetron 4 mg x2 
IV Morphine Sulfate 4 mg x2
IV Metoclopramide 10 mg 
IV DiphenhydrAMINE 25 mg 
2L NS 

On arrival to the floor, she reports her pain has improved since
being in the ED. She reports she was ready to leave around 2 am
when she had nausea/vomiting again, so she was admitted.
Currently her pain is epigastric and mild. She has not tried to
eat. Last bowel movement was yesterday, no change in character
from usual. She does not feel starved, but thinks she can try to
eat something.

REVIEW OF SYSTEMS:
==================
Per HPI, otherwise, 10-point review of systems was within normal
limits.
 
Past Medical History:
Anxiety
Obesity 
Appendicitis - at age ___ c/b peritonitis and ex-lap 
Removal of fallopian tubes due to hydrosalpinx and scarring
from her appendicitis perforation
Egg harvesting 
 
Social History:
___
Family History:
GM with hypothyroidism, colon CAn ___
pGM- uterine CA, 80s 
dad- lung CA x 2, smoker
mom- healthy
 
Physical ___:
ADMISSION PHYSICAL EXAM
VITALS:
24 HR Data (last updated ___ @ 822)
    Temp: 98.3 (Tm 98.3), BP: 116/81, HR: 86, RR: 18, O2 sat:
96%, O2 delivery: ra
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, mildly tender to
light palpation in the epigastric region. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout.

Discharge physical exam:
VITALS:
24 HR Data (last updated ___ @ 1500)
    Temp: 98.4 (Tm 98.4), BP: 107/73 (107-116/71-81), HR: 71 
(67-86), RR: 18 (___), O2 sat: 97% (96-97), O2 delivery: ra  
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, mildly tender to
light palpation in the epigastric region. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout.
 
Pertinent Results:
ADMISSION LABS
============
___ 08:02PM BLOOD WBC-21.5* RBC-5.12 Hgb-14.7 Hct-44.2 
MCV-86 MCH-28.7 MCHC-33.3 RDW-13.2 RDWSD-41.6 Plt ___
___ 08:02PM BLOOD Neuts-72.5* ___ Monos-6.1 Eos-1.0 
Baso-0.7 Im ___ AbsNeut-15.55* AbsLymp-4.15* AbsMono-1.31* 
AbsEos-0.22 AbsBaso-0.15*
___ 08:02PM BLOOD Glucose-119* UreaN-11 Creat-0.9 Na-138 
K-4.3 Cl-102 HCO3-20* AnGap-16
___ 08:02PM BLOOD ALT-19 AST-14 AlkPhos-107* TotBili-0.4
___ 08:02PM BLOOD Lipase-39
___ 08:02PM BLOOD Albumin-4.9
___ 08:02PM BLOOD HCG-<5
___ 08:02PM BLOOD ANCA-NEGATIVE B
___ 08:02PM BLOOD CRP-3.8

MICRO
=======
___ 9:26 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 8:01 am URINE

   URINE CULTURE (Pending): 

PERTINENT STUDIES
===================
RUQ ULTRASOUND ___

FINDINGS:  
LIVER: The liver is diffusely echogenic. The contour of the 
liver is smooth. 
There is no focal liver mass. The main portal vein is patent 
with hepatopetal 
flow. There is no ascites. 
  
BILE DUCTS: There is no intrahepatic biliary dilation. 
 CHD: 3 mm 
  
GALLBLADDER: There is no evidence of stones or gallbladder wall 
thickening. 
  
PANCREAS: The imaged portion of the pancreas appears within 
normal limits, 
without masses or pancreatic ductal dilation, with portions of 
the pancreatic 
tail obscured by overlying bowel gas. 
  
SPLEEN: Normal echogenicity. 
 Spleen length: 11.4 cm 
  
KIDNEYS: Limited views of the kidneys show no hydronephrosis. 
 Right kidney: 13.1 cm 
 Left kidney: 12.9 cm 
  
RETROPERITONEUM: The visualized portions of aorta and IVC are 
within normal 
limits. 
  
IMPRESSION: 
  
  
1. No evidence of cholelithiasis or acute cholecystitis. 
2. Echogenic liver consistent with steatosis. Other forms of 
liver disease 
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded 
on the basis of this examination. 
  
RECOMMENDATION(S): Radiological evidence of fatty liver does not 
exclude 
cirrhosis or significant liver fibrosis which could be further 
evaluated by 
___. This can be requested via the ___ 
(FibroScan) or the 
Radiology Department with either MR ___ or US 
___, in 
conjunction with a GI/Hepatology consultation" * 
  

CT ABDOMEN PELVIS ___
FINDINGS:  
  
LOWER CHEST: Visualized lung fields are within normal limits.  
There is no 
evidence of pleural or pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions. There is no evidence of 
intrahepatic or 
extrahepatic biliary dilatation.  The gallbladder is within 
normal limits. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of 
focal lesions or pancreatic ductal dilatation.  There is no 
peripancreatic 
stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions.  A 1.6 cm accessory spleen is noted. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  
There is no evidence of focal renal lesions or hydronephrosis.  
There is no 
perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  There are 
multiple mildly 
dilated, fluid and air-filled loops of small-bowel in the left 
upper quadrant 
measuring up to 3.2 cm (02:36).  Just distal to the dilated 
loops is a short 
segment of jejunum demonstrating mild wall thickening and 
adjacent soft tissue 
stranding, suggestive of an underlying inflammatory or 
infectious process 
(2:57).  There is questionable intramural fat within this loop, 
suggestive of 
inflammatory bowel disease (02:52).  Multiple scattered 
prominent mesenteric 
lymph nodes are seen measuring up to 7 mm (02:59), none 
pathologically 
enlarged based on CT size criteria and likely reactive.  The 
terminal ileum is 
unremarkable.  The colon and rectum are within normal limits. 
The appendix is 
not visualized. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no 
free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The visualized reproductive organs are 
unremarkable. 
  
LYMPH NODES: There is no retroperitoneal lymphadenopathy.  There 
is no pelvic 
or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  No 
atherosclerotic disease 
is noted. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION: 
  
  
1. Small bowel obstruction due to long segment of inflammatory 
stricture in 
the jejunum.  Findings are concerning for Crohn's disease, 
differential 
diagnosis includes infectious etiology.  Further evaluation with 
MRI is 
recommended 
2. No evidence of diverticulitis. 
  
RECOMMENDATION(S):  MRE to further evaluate for inflammatory 
bowel disease. 

DISCHARGE LABS
================
___ 10:26AM BLOOD WBC-11.8* RBC-4.33 Hgb-12.6 Hct-38.9 
MCV-90 MCH-29.1 MCHC-32.4 RDW-13.6 RDWSD-44.1 Plt ___
 
Brief Hospital Course:
SUMMARY STATEMENT:
====================
___ female with history of anxiety, remote appendicitis, 
complicated by peritonitis and exploratory laparotomy who 
presented with several hours of abdominal pain. Work-up was 
revealed an area of stricture in the jejunum which was 
concerning for an inflammatory vs infectious process, and 
possibly inflammatory bowel disease. Given this finding, it was 
recommended that she stay for further evaluation and GI 
consultation, however she understood the risks of leaving and 
the possibility of having to return to the hospital and 
preferred to leave and perform the rest of the evaluation as an 
outpatient. She will follow-up in outpatient GI clinic at the 
next available appointment.

TRANSITIONAL ISSUES:
====================
[] Patient noted to have hepatic steatosis on CT abdomen, 
possibly secondary to nonalcoholic fatty liver disease. 
Recommend following up in primary care to discuss further 
evaluation and management.

[] CT abdomen reported area of jejunal stricture possibly 
consistent with inflammatory bowel disease. Recommend follow-up 
with gastroenterology to determine next steps, specifically MRE 
versus enteroscopy.

ACTIVE ISSUES:
==============
#Abdominal pain
#Nausea/vomiting
Patient presented with several hours of abdominal pain 
accompanied by 2 episodes of nonbilious nonbloody vomiting. This 
was the first episode like this she has experienced. She denied 
recent travel or new exposures. There are no obvious triggers. 
In the emergency department, she had WBC 21 and CT scan which 
showed dilated bowel loops and one area of inflammation in the 
jejunum, as well as hepatic steatosis but no findings otherwise. 
Her exam was benign. CRP was normal, although ESR and ANCA 
pending at discharge (likely be low yield). She was about to be 
discharged from the emergency department after receiving pain 
medications and antiemetics, however had another episode of 
nausea and vomiting and thus was admitted to the medicine 
service. On arrival to medicine service, her pain had resolved 
and soft diet was initiated. She tolerated this well and repeat 
CBC that showed an improvement in leukocytosis to ___ 11. Due to 
the stricture seen on CT, it was recommended that she stay in 
the hospital for GI consultation and further evaluation with MRE 
vs endoscopy, however she preferred to leave the hospital and 
understood the risks of recurrence of symptoms and having to 
return to the hospital. She was discharged home.

#Hepatic steatosis
Incidentally noted on CT abdomen, possibly secondary to 
nonalcoholic fatty liver disease. Recommend management as an 
outpatient.

CHRONIC ISSUES:
===============
Continued home medications naltrexone and bupropion.

CONTACT:
___ (Cell)
CODE STATUS: full presumed

>30 minutes spent on ___ planning including discussing plan with 
pt, and need for f/u
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Naltrexone 25 mg PO DAILY 
2. BuPROPion (Sustained Release) 100 mg PO QAM 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever  
2.  BuPROPion (Sustained Release) 100 mg PO QAM  
3.  Naltrexone 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Gastroenteritis

SECONDARY DIAGNOSES:
Hepatic steatosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you had abdominal 
pain, nausea, and vomiting.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- In the hospital, you had blood tests showing an elevated white 
blood cell count, which can happen with infection or 
inflammation. You had a abdominal CT which showed inflammation, 
stricture, and obstruction in a small area of your intestine. 
You were given fluids and medications for your nausea and pain. 
You were monitored as your diet was restarted and you were 
discharged home. We recommended that you stay in the hospital 
for further evaluation of this stricture, however since you 
prefer to pursue this workup as an outpatient we will attempt to 
set up close follow-up and imaging as an outpatient.

WHAT SHOULD I DO WHEN I GO HOME?
- Please take all of your medications exactly as prescribed and 
attend all of your follow-up appointments listed below.

- Please reach out to the ___ clinic at 
___ to schedule an appointment if you do not hear from 
the GI team within the next few days.

We wish you the best!
Your ___ Care Team 
 
Followup Instructions:
___